US07265139B2
A solution of p-tolualdehyde (1 mL, 8.48 mmol), 3-methyl-2-butanone (1.81 mL, 16.96 mmol) and barium hydroxide (0.2 g, 1.17 mmol) in ethanol (4 mL) were mixed and the reaction mixture was heated at reflux for 1 hour. After cooling the solution was extracted with ethyl acetate. The organic layer was washed with water and brine, dried (Mg2SO4), filtered and evaporated to give 1.43 g of trans-4-methyl-1-p-tolyl-pent-1-en-3-one (90%) and used without further purification in the next step (step i). 1H NMR (300 MHz; CDCl3): 1.16 (d, J=7.2 Hz, 6 H), 2.35 (s, 3 H), 2.92 (m, 1 H), 6.79 (dd, J=16.0 Hz, 1 H), 7.19 (d, J=7.5 Hz, 1 H), 7.43 (d, J=8.1 Hz, 1 H), 7.28 (d, J=16.2 Hz, 1 H).

reactant | p-tolualdehyde | 8.48 mmol, 1 mL | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | 3-methyl-2-butanone | 16.96 mmol, 1.81 mL | CC(C(C)=O)C | C5H10O
reactant | barium hydroxide | 1.17 mmol, 0.2 g | [OH-].[Ba+2].[OH-]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | trans-4-methyl-1-p-tolyl-pent-1-en-3-one | 1.43 g, 90% | CC(C(/C=C/C1=CC=C(C=C1)C)=O)C | C13H16O
